US04086350
Following the procedures outlined in Example 21, 10.7 g. (0.038 mol) of 2-iodo-4-chlorobenzoic acid, 4.3 g. (0.038 mol) of 4-fluorophenol 5.25 g. (0.038 mol) of potassium carbonate and 1.14 g. of cuprous chloride in 180 ml. of pyridine are heated under reflux overnight to give upon workup 4-chloro-2-(4-fluorophenoxy)-benzoic acid, 154°-173° C. Heating the acid (5.0 g., 0.019 mol) for one hour with 75 g. of sulfuric acid yields the corresponding 2-fluoro-6-chloro-9-xanthone, m.p. 210° C.

reactant | 2-iodo-4-chlorobenzoic acid | 0.038 mol | IC1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClIO2
reactant | 4-fluorophenol | 0.038 mol, 5.25 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | potassium carbonate | 0.038 mol | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-(4-fluorophenoxy)-benzoic acid | ClC1=CC(=C(C(=O)O)C=C1)OC1=CC=C(C=C1)F | C13H8ClFO3
